US07429609B2
(2-Chlorothiophen-3-yl)-(naphthalen-2-yl)-methanone
To a solution of 1.18 g of (2-chlorothiophen-3-yl)-(naphthalen-2-yl)-methanol in 12 mL of toluene was added 1.12 g of activated manganese dioxide at room temperature, and after stirring at 50° C. for a day, manganese dioxide was filtered off through Celite. The solvent was distilled off, and the resultant crude product was purified and separated by silica gel column chromatography (ethyl acetate:n-hexane=1:50), to afford 0.61 g of the title compound as a colorless oil.

reactant | (2-chlorothiophen-3-yl)-(naphthalen-2-yl)-methanol | 1.18 g | ClC=1SC=CC1C(O)C1=CC2=CC=CC=C2C=C1 | C15H11ClOS
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 1.12 g | [O-2].[O-2].[Mn+4]
product | (2-Chlorothiophen-3-yl)-(naphthalen-2-yl)-methanone | 0.61 g | ClC=1SC=CC1C(=O)C1=CC2=CC=CC=C2C=C1 | C15H9ClOS
